US09371321B2
2-Amino-4-((S)-1-(6-((R)-3-aminopyrrolidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethylamino)-6-methylpyrimidine-5-carbonitrile
To a 25 mL pear flask was added 2-amino-4-(((S)-1-(6-(3-(1,3-dioxoisoindolin-2-yl)pyrrolidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-6-methylpyrimidine-5-carbonitrile (peak 1 of PREPARATION 13, 27 mg, 0.052 mmol) in ethanol (520 μL) to give a solution. To this solution was added hydrazine monohydrate (25 μL, 0.52 mmol). The mixture was heated to 65° C. for 3.5 hours, at which time the reaction was deemed to be complete based on MS/UPLC. The mixture was diluted with acetonitrile and was directly purified by preparative HPLC (basic mode, 25-45% ACN/water gradient). The product-containing fractions were concentration and lyophilized to give the title compound as a white solid (6.3 mg, 31%). The absolute configuration of the stereocenter on the pyrrolidine ring was not determined, but was assigned the opposite configuration of EXAMPLE 8. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.41 (d, J=6.32 Hz, 3H), 1.63-1.74 (m, 1H), 2.16 (dd, J=12.25, 7.20 Hz, 1H), 2.25 (s, 3H), 2.71 (dd, J=9.09, 4.80 Hz, 1H), 3.04 (td, J=8.27, 5.18 Hz, 1H), 3.60 (t, J=6.32 Hz, 1H), 3.71-3.85 (m, 3H), 5.75 (d, J=6.82 Hz, 1H), 6.42-6.51 (m, 1H), 7.18 (d, J=7.58 Hz, 1H), 7.51 (d, J=3.28 Hz, 1H), 7.68-7.78 (m, 1H); ESI-MS m/z [M+H]+ calc'd for C20H25N9, 392. found 392.

reactant | 2-amino-4-(((S)-1-(6-(3-(1,3-dioxoisoindolin-2-yl)pyrrolidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-6-methylpyrimidine-5-carbonitrile | 0.052 mmol, 27 mg | NC1=NC(=C(C(=N1)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2CC(CC2)N2C(C1=CC=CC=C1C2=O)=O)C#N)C | C28H27N9O2
reactant | hydrazine monohydrate | 0.52 mmol, 25 μL | O.NN
solvent | ethanol | 520 μL | C(C)O | C2H6O
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-Amino-4-((S)-1-(6-((R)-3-aminopyrrolidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethylamino)-6-methylpyrimidine-5-carbonitrile | 6.3 mg, 31% | NC1=NC(=C(C(=N1)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2C[C@@H](CC2)N)C#N)C | C20H25N9
